US05354755
Preparation of 2-(Trifluoromethyl)-4H-3,1-benzoxazin-4-one
Anthranilic acid (10.07 g, 73.43 mmol) is added portionwise to trifluoroacetic anhydride (31 mL). After the addition is complete, the reaction mixture is concentrated in vacuo to obtain a residue. The residue is diluted with acetic anhydride and the mixture is heated at reflux for 30 minutes, cooled to room temperature and distilled to obtain the title product as a white solid, 13.35 g, which is identified by 1HNMR spectral analysis.

reactant | Anthranilic acid | 73.43 mmol, 10.07 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | trifluoroacetic anhydride | 31 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(Trifluoromethyl)-4H-3,1-benzoxazin-4-one | FC(C1=NC2=C(C(O1)=O)C=CC=C2)(F)F | C9H4F3NO2
